US05994378
A solution of benzyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]carbonyl}indole-3-carboxylate (107 mg) in tetrahydrofuran (4 ml) was hydrogenated over 10% Pd--C (22 mg) at room temperature under atmospheric pressure. After removal of the catalyst by filtration, the filtrate was concentrated under reduced pressure to give 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]carbonyl}indole-3-carboxylic acid (74.5 mg).

reactant | benzyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]carbonyl}indole-3-carboxylate | 107 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(=O)N2C=C(C1=CC=CC=C21)C(=O)OCC2=CC=CC=C2 | C32H26N2O4S
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]carbonyl}indole-3-carboxylic acid | 74.5 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(=O)N2C=C(C1=CC=CC=C21)C(=O)O | C25H20N2O4S
